US07238716B2
To a mixture of 2-[2-[4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile (0.94 g) and 2-methoxyethanol (8 mL) was added a 4N aqueous potassium hydroxide solution (4 mL) and the mixture was heated under reflux for 5 hrs. 1N Hydrochloric acid (16 mL) and water were added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (0.58 g, 59%) of 2-[2-[4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid from a fraction eluted with acetone-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 128-129° C.

reactant | 2-[2-[4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile | 0.94 g | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC#N)C=C1 | C25H21N3O2S
reactant | 2-methoxyethanol | 8 mL | COCCO | C3H8O2
reactant | potassium hydroxide | 4N, 4 mL | [OH-].[K+]
reactant | Hydrochloric acid | 1N, 16 mL | Cl | ClH
reactant | water | O | H2O
product | 2-[2-[4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | 0.58 g, 59% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1 | C25H22N2O4S
